US07799805B2
N-[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide
TBAF (1M in THF, 2.46 mL, 2.46 mmol) was added to a sol. of N-{2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-3,3,3-trifluoro-propionamide (500 mg, 1.22 mmol) in THF (15.8 mL) at 0° C. The mixture was stirred for 1 h at 0° C., and aq. sat. NH4Cl was added. The mixture was extracted with EtOAc (3×). The combined org. extracts were washed with water (4×), dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (CH2Cl2/MeOH 19:1) yielded the title compound (230 mg, 64%). LC-MS: tR=0.79 min.

reactant | TBAF | 2.46 mmol, 1M, 2.46 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | N-{2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-3,3,3-trifluoro-propionamide | 1.22 mmol, 500 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCNC(CC(F)(F)F)=O)(C)C | C18H27ClF3NO2Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 15.8 mL | C1CCOC1 | C4H8O
product | N-[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide | 230 mg, 64% | ClC1=C(C=C(C=C1)CCNC(CC(F)(F)F)=O)CO | C12H13ClF3NO2
